US08703978B2
4-Bromo-2-triisopropylsiloxynaphthalene
Sodium hydride (0.38 g, 15.9 mmol) was added portionwise to a solution of 4-bromo-2-naphthol (3.54 g, 15.9 mmol) in THF (50 mL) with stirring at 0° C. under N2. Ater 0.5 h chlorotriisopropylsilane (3.06 g, 15.9 mmol) was added dropwise at 0. The solution was stirred at room temperature for 2 h, poured into water (200 mL), extracted with DCM (dichloromethane) (4×50 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was chromatographed on silica using hexanes as eluent. The solvent was removed under reduced pressure to give the title compound (5.78 g, 96%) as a colourless oil.

reactant | Sodium hydride | 15.9 mmol, 0.38 g | [H-].[Na+]
reactant | 4-bromo-2-naphthol | 15.9 mmol, 3.54 g | BrC1=CC(=CC2=CC=CC=C12)O | C10H7BrO
reactant | chlorotriisopropylsilane | 15.9 mmol, 3.06 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | water | 200 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Bromo-2-triisopropylsiloxynaphthalene | 5.78 g, 96% | BrC1=CC(=CC2=CC=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C | C19H27BrOSi
